US09340546B2
TFA (1 mL, 12.98 mmol) was added to a stirred solution of tert-butyl N-[5-fluoro-4-[1-(oxetan-3-yl)-4-piperidyl]-3-pyridyl]carbamate (174 mg, 0.4951 mmol) in DCM (5 mL) and the reaction stirred at ambient temperature for 4 hours. The solvent was removed in vacuo and the residue azeotroped with DCM (×2) and ether (×2). The residue was passed through a 5 g SCX-2 cartridge and washed with MeOH/DCM mixtures. The product was eluted by washing the cartridge with 2M NH3 in MeOH/DCM mixtures and concentrated in vacuo to give 5-fluoro-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridin-3-amine as a yellow oil (109 mg, 88% Yield). MS (ES+) 252.1.

reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl N-[5-fluoro-4-[1-(oxetan-3-yl)-4-piperidyl]-3-pyridyl]carbamate | 0.4951 mmol, 174 mg | FC=1C(=C(C=NC1)NC(OC(C)(C)C)=O)C1CCN(CC1)C1COC1 | C18H26FN3O3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-fluoro-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridin-3-amine | 109 mg, 88% Yield | FC=1C(=C(C=NC1)N)C1CCN(CC1)C1COC1 | C13H18FN3O
